datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:26])([H:27])[H:28])=[C:15]([C:16]([H:29])([H:30])[H:31])[c:17]1[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]1[H:36])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:15]([C:13]([C:12]([H:23])([H:24])[H:25])[C:14]([H:26])([H:27])[H:28])([C:16]([H:29])([H:30])[H:31])[c:17]1[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]1[H:36])[H:7])([H:5])[H:6],83.1361
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([H:7])([H:8])[H:9]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:6]([H:7])([H:8])[H:9],23.8488
[C:0](#[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[C:14]([H:15])([H:16])[H:17]>>[C:0](=[C:1]([c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[C:14]([H:15])([H:16])[H:17])[H:8],49.090872
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[H:8]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][H:8],30.1248
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15](=[S:16])[H:21])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14]([C:13]([H:17])([H:18])[H:19])([C:15](=[S:16])[H:21])[H:20],24.6856
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[S:3][H:10])([H:4])([H:5])[H:6].[S:11]=[C:12]([C:13]([S:14][H:18])([H:16])[H:17])[H:15]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([S:3][H:10])[H:16])([H:4])([H:5])[H:6].[S:11]=[C:12]([C:13]([S:14][H:18])[H:17])[H:15],-14.644
[N:0]([H:1])[H:2].[N:3]([H:4])[H:5]>>[H:1][N:3]([H:4])[H:5].[N:0][H:2],41.589
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](=[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:23]([C:22](=[C:21]([H:26])[H:27])[H:28])([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])[H:11],42.091
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14](=[C:13]([H:17])[H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20],38.9112
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:22]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][H:22],15.8992
[C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:4][C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8].[S:0]=[C:1]([S:2])[H:3],-11.7152
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([O:3])[C:4]([O:5][O:6][H:15])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:0]([H:7])([H:8])[H:9].[C:1]([C:2]([H:10])([H:11])[H:12])(=[O:3])[C:4]([O:5][O:6][H:15])([H:13])[H:14],116.7336
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16]([c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])[H:26])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])([H:8])[C:16]([C:15]([H:23])([H:24])[H:25])([c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])[H:26])([H:5])([H:6])[H:7],40.5011
[C:0]([C:1]([O:2][O:3][H:11])([C:4]([C:5]([H:13])([H:14])[H:15])([O:6][O:7][H:16])[H:12])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([C:4]([C:5]([H:13])([H:14])[H:15])([O:6][O:7][H:16])[H:12])([H:10])[O:2]1.[O:3][H:11],45.1872
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([C:10]([H:18])([H:19])[H:20])([C:11]([O:12][O:13])([H:21])[H:22])[H:17])([H:14])([H:15])[H:16]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][O:13][O:12][C:11]([C:9]([C:8]([H:14])([H:15])[H:16])([C:10]([H:18])([H:19])[H:20])[H:17])([H:21])[H:22],85.60464
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32][H:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:17][O:32][H:33],-5.819944
